US07420001B2
To 4-amino-3-methyl-benzofuran-2-carboxylic acid ethyl ester (500 mg, 2.28 mmol, 1 eq.) was added iodomethane (310 uL, 6.16 mmol, 2.7 eq.), sodium carbonate (314 mg, 2.96 mmol, 1.3 eq.), and ethanol (10 mL) and reaction was heated at reflux for 16 hours. 3-Methyl-4-methylamino-benzofuran-2-carboxylic acid ethyl ester was obtained in 17% yield after flash column chromatography, eluting with ethyl acetate/hexanes. (90 mg) 1H NMR (400 MHz, DMSO-d6) δ ppm 1.3 (t, J=7.1 Hz, 3 H) 2.7 (s, 3 H) 4.3 (q, J=7.1 Hz, 2 H) 6.5 (dd, J=7.8, 0.8 Hz, 1 H) 6.8 (d, J=8.3 Hz, 1 H) 7.2 (t, J=8.1 Hz, 1 H).

reactant | 4-amino-3-methyl-benzofuran-2-carboxylic acid ethyl ester | 2.28 mmol, 500 mg, 1 eq. | C(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)N | C12H13NO3
reactant | iodomethane | 6.16 mmol, 310 uL, 2.7 eq. | IC | CH3I
reactant | sodium carbonate | 2.96 mmol, 314 mg, 1.3 eq. | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 3-Methyl-4-methylamino-benzofuran-2-carboxylic acid ethyl ester | 17% yield | C(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)NC | C13H15NO3
